US07795262B2
Step 3. Preparation of 1-(4-cyclobutyl-piperazin-1-yl)-2-(7,8-dihydro-5H-[1,6]naphthyridin-6-yl)-ethanone
To a stirred solution of 5,6,7,8-tetrahydro-[1,6]naphthyridine (134 mg, 1.0 mmol) in acetonitrile (5.0 ml) is added 2-chloro-(4-cyclobutyl-piperazine)-acetamide (216 mg, 1.0 mmol, 1.0 eq.), K2CO3 (376 mg, 2.0 mmol, 2.0 eq.), and NaI (30 mg). The resulting mixture is stirred at rt overnight. Water (10.0 ml) is added to quench the reaction, and the acetonitrile is evaporated. The residue is extracted with DCM (10 ml×3). The combined organic phase is dried over sodium sulfate and concentrated. The residue is purified by PTLC (EtOAc/4% TEA/4% EtOH) to give the title compound. 1H NMR (300 MHz, CDCl3) δ 8.40 (1H, dd), 7.30 (1H, dd), 7.06 (1H, dd), 3.70 (2H, s), 3.63 (4H, m), 3.38 (2H, s), 3.04 (2H, t), 2.89 (2H, t), 2.67 (1H, m), 2.27 (4H, m), 1.60-2.06 (6H, m); MS (+VE) m/z 315.2 (M++1).

reactant | 5,6,7,8-tetrahydro-[1,6]naphthyridine | 1.0 mmol, 134 mg | N1=CC=CC=2CNCCC12 | C8H10N2
reactant | 2-chloro-(4-cyclobutyl-piperazine) acetamide | 1.0 mmol, 216 mg, 1.0 eq. | ClC1NCCN(C1)C1CCC1.C(C)(=O)N
reactant | K2CO3 | 2.0 mmol, 376 mg, 2.0 eq. | C(=O)([O-])[O-].[K+].[K+]
reactant | NaI | 30 mg | [Na+].[I-]
solvent | acetonitrile | 5.0 ml | C(C)#N | C2H3N
solvent | Water | 10.0 ml | O | H2O
product | 1-(4-cyclobutyl-piperazin-1-yl)-2-(7,8-dihydro-5H-[1,6]naphthyridin-6-yl)-ethanone | C1(CCC1)N1CCN(CC1)C(CN1CC=2C=CC=NC2CC1)=O | C18H26N4O
